* C:\IMR_Projects\IMR\Softcore_SA\Simulation\SPICE\Sallen & Key LPF.asc
V1 VCC 0 3.3V
V2 VIN 0 SINE(1.65 1 330e3 0 0 0 10) AC 1
R3 VOUT N004 3K
R2 N005 N001 1.5K
R1 N001 N003 1.5K
C1 N005 0 220e-12
C2 VOUT N001 470e-12
R4 N003 N002 10K
R5 N006 VIN 10K
XU3 N006 N002 VCC 0 N003 AD8606
XU1 N005 N004 VCC 0 VOUT AD8606
;tran 1e-4
.ac dec 1000 10 2e6
* R3 can be 2K or 0.  When 2K it forms a balance of the input impedance to both + / - terminals.\nOtherwise it does not play into circuit calculation
* w = 2piF = 1 / SQRT(R1*R2*C1*C2)\nQ = SQRT(R1*R2*C1*C2) / (C2(R1 + R2)
* Reference: https://circuitcellar.com/resources/quickbits/sallen-n-key-filter/
* Gain at frequency f\nG(f) = 1 / SQRT(1 + f/fc)^2n)\nfc = cutoff frequency\nn = number of poles (Sallen & Key has 2 poles)
.lib ADI.lib
.backanno
.end
